US08604055B2
Synthesis of (3,5-bis-trifluoromethyl-benzyl) [2-(cyclopentylmethyl-ethyl-amino)-quinolin-3-ylmethyl]-dithiocarbamic acid methyl ester
To a suspension of sodium hydride (0.023 g, 0.98 mmol) in dry THF (15 mL) at 0° C., in a 25 mL round bottom flask, was added {3-[(3,5-bis-trifluoromethyl-benzylamino)-methyl]-quinolin-2-yl }-cyclopentylmethyl-ethyl-amine (0.25 g, 0.44 mmol), obtained in step (iv) of Example 35. This reaction mixture was stirred for 10 minutes at the same temperature; carbon disulphide (0.112 g, 0.98 mmol) was added dropwise, followed by the addition of methyl iodide (0.208 g, 1.47 mmol). The reaction was allowed to reach RT and stirring was continued for 0.5 h. Water was then added to the reaction, which was then extracted with ethyl acetate. The combined organic layer was washed with brine solution and dried over sodium sulfate. The solvent was evaporated to afford the title compound (0.250 g, yield: 87%).

reactant | sodium hydride | 0.98 mmol, 0.023 g | [H-].[Na+]
reactant | {3-[(3,5-bis-trifluoromethyl-benzylamino)-methyl]-quinolin-2-yl }-cyclopentylmethyl-ethyl-amine | 0.44 mmol, 0.25 g | FC(C=1C=C(CNCC=2C(=NC3=CC=CC=C3C2)N(CC)CC2CCCC2)C=C(C1)C(F)(F)F)(F)F | C27H29F6N3
reactant | carbon disulphide | 0.98 mmol, 0.112 g | C(=S)=S | CS2
reactant | methyl iodide | 1.47 mmol, 0.208 g | CI | CH3I
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | (3,5-bis-trifluoromethyl-benzyl) [2-(cyclopentylmethyl-ethyl-amino)-quinolin-3-ylmethyl]-dithiocarbamic acid methyl ester | 0.250 g, yield: 87% | CSC(N(CC=1C(=NC2=CC=CC=C2C1)N(CC)CC1CCCC1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=S | C29H31F6N3S2
